// Generated for: spectre
// Generated on: May 21 03:40:27 2015
// Design library name: 20nm
// Design cell name: Dual_Supply_Test
// Design view name: schematic
simulator lang=spectre
global 0 vdd! vcc!
parameters nfin=62 VDDH=.600 VDDL=.450 timeStop=32n period=14n \
    pulseWidth=7n startDelay=5n C=596.31f
include "/root/Desktop/Cadence/ncsu-FreePDK15/hspice_20nm_hp.include"

// Library name: 20nm
// Cell name: inv_4x_PWR
// View name: schematic
subckt inv_4x_PWR A GND VDD Y
    M0 (Y A GND GND) nfet w=240n l=24n nfin=4 nf=1 m=1
    M1 (Y A VDD VDD) pfet w=400n l=24n nfin=4 nf=1 m=1
ends inv_4x_PWR
// End of subcircuit definition.

// Library name: 20nm
// Cell name: nand4_1x_PWR
// View name: schematic
subckt nand4_1x_PWR A B C D GND VDD Y
    M5 (Y D VDD VDD) pfet w=100n l=24n nfin=1 nf=1 m=1
    M4 (Y C VDD VDD) pfet w=100n l=24n nfin=1 nf=1 m=1
    M1 (Y B VDD VDD) pfet w=100n l=24n nfin=1 nf=1 m=1
    M0 (Y A VDD VDD) pfet w=100n l=24n nfin=1 nf=1 m=1
    M7 (net23 D GND GND) nfet w=240n l=24n nfin=1 nf=1 m=1
    M6 (net25 C net23 GND) nfet w=240n l=24n nfin=1 nf=1 m=1
    M3 (net24 B net25 GND) nfet w=240n l=24n nfin=1 nf=1 m=1
    M2 (Y A net24 GND) nfet w=240n l=24n nfin=1 nf=1 m=1
ends nand4_1x_PWR
// End of subcircuit definition.

// Library name: 20nm
// Cell name: 6T_32x_CTRL_PWR
// View name: schematic
subckt _sub21 B0 B1 S W0 W1 VDD GND
    M10 (B1 B0 net22 VDD) pfet w=100n l=24n nfin=1 nf=1 m=1
    M9 (net22 W1 VDD VDD) pfet w=100n l=24n nfin=1 nf=1 m=1
    M8 (B0 B1 net23 VDD) pfet w=100n l=24n nfin=1 nf=1 m=1
    M7 (net23 W0 VDD VDD) pfet w=100n l=24n nfin=1 nf=1 m=1
    M2 (B1 S VDD VDD) pfet w=100n l=24n nfin=1 nf=1 m=1
    M0 (B0 S VDD VDD) pfet w=100n l=24n nfin=1 nf=1 m=1
    M6 (B1 W1 net24 GND) nfet w=60n l=24n nfin=1 nf=1 m=1
    M5 (net24 S GND GND) nfet w=60n l=24n nfin=1 nf=1 m=1
    M4 (net25 S GND GND) nfet w=60n l=24n nfin=1 nf=1 m=1
    M3 (B0 W0 net25 GND) nfet w=60n l=24n nfin=1 nf=1 m=1
ends _sub21
// End of subcircuit definition.

// Library name: 20nm
// Cell name: 6T_PWR
// View name: schematic
subckt _sub22 A B0 B1 VDD GND
    M5 (Q0 Q1 GND GND) nfet w=60n l=24n nfin=1 nf=1 m=1
    M4 (Q1 Q0 GND GND) nfet w=60n l=24n nfin=1 nf=1 m=1
    M1 (Q1 A B1 GND) nfet w=120n l=24n nfin=2 nf=1 m=1
    M0 (Q0 A B0 GND) nfet w=120n l=24n nfin=2 nf=1 m=1
    M3 (Q0 Q1 VDD VDD) pfet w=100n l=24n nfin=1 nf=1 m=1
    M2 (Q1 Q0 VDD VDD) pfet w=100n l=24n nfin=1 nf=1 m=1
ends _sub22
// End of subcircuit definition.

// Library name: 20nm
// Cell name: 6T_4x_PWR
// View name: schematic
subckt _sub23 A\<3\> A\<2\> A\<1\> A\<0\> B0 B1 GND VDD
    I3 (A\<0\> B0 B1 VDD GND) _sub22
    I2 (A\<1\> B0 B1 VDD GND) _sub22
    I1 (A\<2\> B0 B1 VDD GND) _sub22
    I0 (A\<3\> B0 B1 VDD GND) _sub22
ends _sub23
// End of subcircuit definition.

// Library name: 20nm
// Cell name: 6T_32x_PWR
// View name: schematic
subckt _sub24 A\<31\> A\<30\> A\<29\> A\<28\> A\<27\> A\<26\> A\<25\> \
        A\<24\> A\<23\> A\<22\> A\<21\> A\<20\> A\<19\> A\<18\> A\<17\> \
        A\<16\> A\<15\> A\<14\> A\<13\> A\<12\> A\<11\> A\<10\> A\<9\> \
        A\<8\> A\<7\> A\<6\> A\<5\> A\<4\> A\<3\> A\<2\> A\<1\> A\<0\> B0 \
        B1 GND VDD\<0\> VDD\<1\>
    I7 (A\<3\> A\<2\> A\<1\> A\<0\> B0 B1 GND VDD\<0\>) _sub23
    I6 (A\<7\> A\<6\> A\<5\> A\<4\> B0 B1 GND VDD\<0\>) _sub23
    I5 (A\<11\> A\<10\> A\<9\> A\<8\> B0 B1 GND VDD\<0\>) _sub23
    I4 (A\<15\> A\<14\> A\<13\> A\<12\> B0 B1 GND VDD\<0\>) _sub23
    I3 (A\<19\> A\<18\> A\<17\> A\<16\> B0 B1 GND VDD\<1\>) _sub23
    I2 (A\<23\> A\<22\> A\<21\> A\<20\> B0 B1 GND VDD\<1\>) _sub23
    I1 (A\<27\> A\<26\> A\<25\> A\<24\> B0 B1 GND VDD\<1\>) _sub23
    I0 (A\<31\> A\<30\> A\<29\> A\<28\> B0 B1 GND VDD\<1\>) _sub23
ends _sub24
// End of subcircuit definition.

// Library name: 20nm
// Cell name: 6T_32x4_PWR
// View name: schematic
subckt _sub25 A\<31\> A\<30\> A\<29\> A\<28\> A\<27\> A\<26\> A\<25\> \
        A\<24\> A\<23\> A\<22\> A\<21\> A\<20\> A\<19\> A\<18\> A\<17\> \
        A\<16\> A\<15\> A\<14\> A\<13\> A\<12\> A\<11\> A\<10\> A\<9\> \
        A\<8\> A\<7\> A\<6\> A\<5\> A\<4\> A\<3\> A\<2\> A\<1\> A\<0\> B0 \
        B1 GND S\<3\> S\<2\> S\<1\> S\<0\> SM0 SM1 VDD\<7\> VDD\<6\> \
        VDD\<5\> VDD\<4\> VDD\<3\> VDD\<2\> VDD\<1\> VDD\<0\> VDDM W0 W1
    I11 (B1P1 B1P2 B1P3 B1P4 GND VDDM SM1) nand4_1x_PWR
    I10 (B0P1 B0P2 B0P3 B0P4 GND VDDM SM0) nand4_1x_PWR
    I4 (B0P1 B1P1 S\<0\> W0 W1 VDDM GND) _sub21
    I5 (B0P2 B1P2 S\<1\> W0 W1 VDDM GND) _sub21
    I6 (B0P3 B1P3 S\<2\> W0 W1 VDDM GND) _sub21
    I7 (B0P4 B1P4 S\<3\> W0 W1 VDDM GND) _sub21
    I3 (A\<31\> A\<30\> A\<29\> A\<28\> A\<27\> A\<26\> A\<25\> A\<24\> \
        A\<23\> A\<22\> A\<21\> A\<20\> A\<19\> A\<18\> A\<17\> A\<16\> \
        A\<15\> A\<14\> A\<13\> A\<12\> A\<11\> A\<10\> A\<9\> A\<8\> \
        A\<7\> A\<6\> A\<5\> A\<4\> A\<3\> A\<2\> A\<1\> A\<0\> B0P4 B1P4 \
        GND VDD\<6\> VDD\<7\>) _sub24
    I1 (A\<31\> A\<30\> A\<29\> A\<28\> A\<27\> A\<26\> A\<25\> A\<24\> \
        A\<23\> A\<22\> A\<21\> A\<20\> A\<19\> A\<18\> A\<17\> A\<16\> \
        A\<15\> A\<14\> A\<13\> A\<12\> A\<11\> A\<10\> A\<9\> A\<8\> \
        A\<7\> A\<6\> A\<5\> A\<4\> A\<3\> A\<2\> A\<1\> A\<0\> B0P2 B1P2 \
        GND VDD\<2\> VDD\<3\>) _sub24
    I2 (A\<31\> A\<30\> A\<29\> A\<28\> A\<27\> A\<26\> A\<25\> A\<24\> \
        A\<23\> A\<22\> A\<21\> A\<20\> A\<19\> A\<18\> A\<17\> A\<16\> \
        A\<15\> A\<14\> A\<13\> A\<12\> A\<11\> A\<10\> A\<9\> A\<8\> \
        A\<7\> A\<6\> A\<5\> A\<4\> A\<3\> A\<2\> A\<1\> A\<0\> B0P3 B1P3 \
        GND VDD\<4\> VDD\<5\>) _sub24
    I0 (A\<31\> A\<30\> A\<29\> A\<28\> A\<27\> A\<26\> A\<25\> A\<24\> \
        A\<23\> A\<22\> A\<21\> A\<20\> A\<19\> A\<18\> A\<17\> A\<16\> \
        A\<15\> A\<14\> A\<13\> A\<12\> A\<11\> A\<10\> A\<9\> A\<8\> \
        A\<7\> A\<6\> A\<5\> A\<4\> A\<3\> A\<2\> A\<1\> A\<0\> B0P1 B1P1 \
        GND VDD\<0\> VDD\<1\>) _sub24
    M1 (B0P1 B0 net066 GND) nfet w=60n l=24 nfin=1 nf=1 m=1
    M10 (B1P2 B1 net071 GND) nfet w=60n l=24 nfin=1 nf=1 m=1
    M7 (B0P2 B0 net068 GND) nfet w=60n l=24 nfin=1 nf=1 m=1
    M13 (B0P3 B0 net072 GND) nfet w=60n l=24 nfin=1 nf=1 m=1
    M16 (B1P3 B1 net073 GND) nfet w=60n l=24 nfin=1 nf=1 m=1
    M22 (B1P4 B1 net077 GND) nfet w=60n l=24 nfin=1 nf=1 m=1
    M19 (B0P4 B0 net078 GND) nfet w=60n l=24 nfin=1 nf=1 m=1
    M4 (B1P1 B1 net067 GND) nfet w=60n l=24 nfin=1 nf=1 m=1
    M0 (net066 net031 GND GND) nfet w=60n l=24 nfin=1 nf=1 m=1
    M3 (net067 net031 GND GND) nfet w=60n l=24 nfin=1 nf=1 m=1
    M9 (net071 net030 GND GND) nfet w=60n l=24 nfin=1 nf=1 m=1
    M6 (net068 net030 GND GND) nfet w=60n l=24 nfin=1 nf=1 m=1
    M12 (net072 net028 GND GND) nfet w=60n l=24 nfin=1 nf=1 m=1
    M15 (net073 net028 GND GND) nfet w=60n l=24 nfin=1 nf=1 m=1
    M21 (net077 net026 GND GND) nfet w=60n l=24 nfin=1 nf=1 m=1
    M18 (net078 net026 GND GND) nfet w=60n l=24 nfin=1 nf=1 m=1
    C7 (B1P4 GND) capacitor c=1.2822f m=1
    C3 (B1P2 GND) capacitor c=1.2822f m=1
    C5 (B1P3 GND) capacitor c=1.2822f m=1
    C6 (B0P4 GND) capacitor c=1.2822f m=1
    C4 (B0P3 GND) capacitor c=1.2822f m=1
    C2 (B0P2 GND) capacitor c=1.2822f m=1
    C1 (B1P1 GND) capacitor c=1.2822f m=1
    C0 (B0P1 GND) capacitor c=1.2822f m=1
    M5 (B1P1 net031 VDDM VDDM) pfet w=100n l=24 nfin=1 nf=1 m=1
    M2 (B0P1 net031 VDDM VDDM) pfet w=100n l=24 nfin=1 nf=1 m=1
    M11 (B1P2 net030 VDDM VDDM) pfet w=100n l=24 nfin=1 nf=1 m=1
    M8 (B0P2 net030 VDDM VDDM) pfet w=100n l=24 nfin=1 nf=1 m=1
    M17 (B1P3 net028 VDDM VDDM) pfet w=100n l=24 nfin=1 nf=1 m=1
    M14 (B0P3 net028 VDDM VDDM) pfet w=100n l=24 nfin=1 nf=1 m=1
    M20 (B0P4 net026 VDDM VDDM) pfet w=100n l=24 nfin=1 nf=1 m=1
    M23 (B1P4 net026 VDDM VDDM) pfet w=100n l=24 nfin=1 nf=1 m=1
ends _sub25
// End of subcircuit definition.

// Library name: 20nm
// Cell name: 6T_SetRead_PWR
// View name: schematic
subckt _sub26 \~R0 \~R1 Go SM0\<0\> SM0\<1\> SM1\<0\> SM1\<1\> GND
    M5 (\~R0 SM0\<0\> net18 GND) nfet w=40n l=24n nfin=1 nf=1 m=1
    M3 (\~R0 SM0\<1\> net18 GND) nfet w=40n l=24n nfin=1 nf=1 m=1
    M2 (net18 Go GND GND) nfet w=40n l=24n nfin=1 nf=1 m=1
    M1 (\~R1 SM1\<1\> net18 GND) nfet w=40n l=24n nfin=1 nf=1 m=1
    M0 (\~R1 SM1\<0\> net18 GND) nfet w=40n l=24n nfin=1 nf=1 m=1
ends _sub26
// End of subcircuit definition.

// Library name: 20nm
// Cell name: 6T_CHUNK_PWR
// View name: schematic
subckt _sub27 \~R0\<3\> \~R0\<2\> \~R0\<1\> \~R0\<0\> \~R1\<3\> \~R1\<2\> \
        \~R1\<1\> \~R1\<0\> A\<63\> A\<62\> A\<61\> A\<60\> A\<59\> \
        A\<58\> A\<57\> A\<56\> A\<55\> A\<54\> A\<53\> A\<52\> A\<51\> \
        A\<50\> A\<49\> A\<48\> A\<47\> A\<46\> A\<45\> A\<44\> A\<43\> \
        A\<42\> A\<41\> A\<40\> A\<39\> A\<38\> A\<37\> A\<36\> A\<35\> \
        A\<34\> A\<33\> A\<32\> A\<31\> A\<30\> A\<29\> A\<28\> A\<27\> \
        A\<26\> A\<25\> A\<24\> A\<23\> A\<22\> A\<21\> A\<20\> A\<19\> \
        A\<18\> A\<17\> A\<16\> A\<15\> A\<14\> A\<13\> A\<12\> A\<11\> \
        A\<10\> A\<9\> A\<8\> A\<7\> A\<6\> A\<5\> A\<4\> A\<3\> A\<2\> \
        A\<1\> A\<0\> B0\<3\> B0\<2\> B0\<1\> B0\<0\> B1\<3\> B1\<2\> \
        B1\<1\> B1\<0\> S\<7\> S\<6\> S\<5\> S\<4\> S\<3\> S\<2\> S\<1\> \
        S\<0\> W0\<3\> W0\<2\> W0\<1\> W0\<0\> W1\<3\> W1\<2\> W1\<1\> \
        W1\<0\> Go GND VDDM VDD\<15\> VDD\<14\> VDD\<13\> VDD\<12\> \
        VDD\<11\> VDD\<10\> VDD\<9\> VDD\<8\> VDD\<7\> VDD\<6\> VDD\<5\> \
        VDD\<4\> VDD\<3\> VDD\<2\> VDD\<1\> VDD\<0\>
    I11 (A\<63\> A\<62\> A\<61\> A\<60\> A\<59\> A\<58\> A\<57\> A\<56\> \
        A\<55\> A\<54\> A\<53\> A\<52\> A\<51\> A\<50\> A\<49\> A\<48\> \
        A\<47\> A\<46\> A\<45\> A\<44\> A\<43\> A\<42\> A\<41\> A\<40\> \
        A\<39\> A\<38\> A\<37\> A\<36\> A\<35\> A\<34\> A\<33\> A\<32\> \
        B0\<3\> B1\<3\> GND S\<7\> S\<6\> S\<5\> S\<4\> SM0_1_bit3 \
        SM1_1_bit3 VDD\<15\> VDD\<14\> VDD\<13\> VDD\<12\> VDD\<11\> \
        VDD\<10\> VDD\<9\> VDD\<8\> VDDM W0\<3\> W1\<3\>) _sub25
    I10 (A\<63\> A\<62\> A\<61\> A\<60\> A\<59\> A\<58\> A\<57\> A\<56\> \
        A\<55\> A\<54\> A\<53\> A\<52\> A\<51\> A\<50\> A\<49\> A\<48\> \
        A\<47\> A\<46\> A\<45\> A\<44\> A\<43\> A\<42\> A\<41\> A\<40\> \
        A\<39\> A\<38\> A\<37\> A\<36\> A\<35\> A\<34\> A\<33\> A\<32\> \
        B0\<2\> B1\<2\> GND S\<7\> S\<6\> S\<5\> S\<4\> SM0_1_bit2 \
        SM1_1_bit2 VDD\<15\> VDD\<14\> VDD\<13\> VDD\<12\> VDD\<11\> \
        VDD\<10\> VDD\<9\> VDD\<8\> VDDM W0\<2\> W1\<2\>) _sub25
    I9 (A\<63\> A\<62\> A\<61\> A\<60\> A\<59\> A\<58\> A\<57\> A\<56\> \
        A\<55\> A\<54\> A\<53\> A\<52\> A\<51\> A\<50\> A\<49\> A\<48\> \
        A\<47\> A\<46\> A\<45\> A\<44\> A\<43\> A\<42\> A\<41\> A\<40\> \
        A\<39\> A\<38\> A\<37\> A\<36\> A\<35\> A\<34\> A\<33\> A\<32\> \
        B0\<1\> B1\<1\> GND S\<7\> S\<6\> S\<5\> S\<4\> SM0_1_bit1 \
        SM1_1_bit1 VDD\<15\> VDD\<14\> VDD\<13\> VDD\<12\> VDD\<11\> \
        VDD\<10\> VDD\<9\> VDD\<8\> VDDM W0\<1\> W1\<1\>) _sub25
    I8 (A\<63\> A\<62\> A\<61\> A\<60\> A\<59\> A\<58\> A\<57\> A\<56\> \
        A\<55\> A\<54\> A\<53\> A\<52\> A\<51\> A\<50\> A\<49\> A\<48\> \
        A\<47\> A\<46\> A\<45\> A\<44\> A\<43\> A\<42\> A\<41\> A\<40\> \
        A\<39\> A\<38\> A\<37\> A\<36\> A\<35\> A\<34\> A\<33\> A\<32\> \
        B0\<0\> B1\<0\> GND S\<7\> S\<6\> S\<5\> S\<4\> SM0_1_bit0 \
        SM1_1_bit0 VDD\<15\> VDD\<14\> VDD\<13\> VDD\<12\> VDD\<11\> \
        VDD\<10\> VDD\<9\> VDD\<8\> VDDM W0\<0\> W1\<0\>) _sub25
    I3 (A\<31\> A\<30\> A\<29\> A\<28\> A\<27\> A\<26\> A\<25\> A\<24\> \
        A\<23\> A\<22\> A\<21\> A\<20\> A\<19\> A\<18\> A\<17\> A\<16\> \
        A\<15\> A\<14\> A\<13\> A\<12\> A\<11\> A\<10\> A\<9\> A\<8\> \
        A\<7\> A\<6\> A\<5\> A\<4\> A\<3\> A\<2\> A\<1\> A\<0\> B0\<3\> \
        B1\<3\> GND S\<3\> S\<2\> S\<1\> S\<0\> SM0_0_bit3 SM1_0_bit3 \
        VDD\<7\> VDD\<6\> VDD\<5\> VDD\<4\> VDD\<3\> VDD\<2\> VDD\<1\> \
        VDD\<0\> VDDM W0\<3\> W1\<3\>) _sub25
    I2 (A\<31\> A\<30\> A\<29\> A\<28\> A\<27\> A\<26\> A\<25\> A\<24\> \
        A\<23\> A\<22\> A\<21\> A\<20\> A\<19\> A\<18\> A\<17\> A\<16\> \
        A\<15\> A\<14\> A\<13\> A\<12\> A\<11\> A\<10\> A\<9\> A\<8\> \
        A\<7\> A\<6\> A\<5\> A\<4\> A\<3\> A\<2\> A\<1\> A\<0\> B0\<2\> \
        B1\<2\> GND S\<3\> S\<2\> S\<1\> S\<0\> SM0_0_bit2 SM1_0_bit2 \
        VDD\<7\> VDD\<6\> VDD\<5\> VDD\<4\> VDD\<3\> VDD\<2\> VDD\<1\> \
        VDD\<0\> VDDM W0\<2\> W1\<2\>) _sub25
    I1 (A\<31\> A\<30\> A\<29\> A\<28\> A\<27\> A\<26\> A\<25\> A\<24\> \
        A\<23\> A\<22\> A\<21\> A\<20\> A\<19\> A\<18\> A\<17\> A\<16\> \
        A\<15\> A\<14\> A\<13\> A\<12\> A\<11\> A\<10\> A\<9\> A\<8\> \
        A\<7\> A\<6\> A\<5\> A\<4\> A\<3\> A\<2\> A\<1\> A\<0\> B0\<1\> \
        B1\<1\> GND S\<3\> S\<2\> S\<1\> S\<0\> SM0_0_bit1 SM1_0_bit1 \
        VDD\<7\> VDD\<6\> VDD\<5\> VDD\<4\> VDD\<3\> VDD\<2\> VDD\<1\> \
        VDD\<0\> VDDM W0\<1\> W1\<1\>) _sub25
    I0 (A\<31\> A\<30\> A\<29\> A\<28\> A\<27\> A\<26\> A\<25\> A\<24\> \
        A\<23\> A\<22\> A\<21\> A\<20\> A\<19\> A\<18\> A\<17\> A\<16\> \
        A\<15\> A\<14\> A\<13\> A\<12\> A\<11\> A\<10\> A\<9\> A\<8\> \
        A\<7\> A\<6\> A\<5\> A\<4\> A\<3\> A\<2\> A\<1\> A\<0\> B0\<0\> \
        B1\<0\> GND S\<3\> S\<2\> S\<1\> S\<0\> SM0_0_bit0 SM1_0_bit0 \
        VDD\<7\> VDD\<6\> VDD\<5\> VDD\<4\> VDD\<3\> VDD\<2\> VDD\<1\> \
        VDD\<0\> VDDM W0\<0\> W1\<0\>) _sub25
    I7 (\~R0\<3\> \~R1\<3\> Go SM0_0_bit3 SM0_1_bit3 SM1_0_bit3 SM1_1_bit3 \
        GND) _sub26
    I6 (\~R0\<2\> \~R1\<2\> Go SM0_0_bit2 SM0_1_bit2 SM1_0_bit2 SM1_1_bit2 \
        GND) _sub26
    I5 (\~R0\<1\> \~R1\<1\> Go SM0_0_bit1 SM0_1_bit1 SM1_0_bit1 SM1_1_bit1 \
        GND) _sub26
    I4 (\~R0\<0\> \~R1\<0\> Go SM0_0_bit0 SM0_1_bit0 SM1_0_bit0 SM1_1_bit0 \
        GND) _sub26
ends _sub27
// End of subcircuit definition.

// Library name: 20nm
// Cell name: inv_1x_PWR
// View name: schematic
subckt inv_1x_PWR A GND VDD Y
    M0 (Y A GND GND) nfet w=240n l=24n nfin=1 nf=1 m=1
    M1 (Y A VDD VDD) pfet w=400n l=24n nfin=1 nf=1 m=1
ends inv_1x_PWR
// End of subcircuit definition.

// Library name: 20nm
// Cell name: Dual_Supply_Test
// View name: schematic
I2 (net035 0 vdd! VH) inv_4x_PWR
I10 (sH 0 vdd! VL) inv_4x_PWR
V2 (vcc! 0) vsource type=dc dc=VDDL
V1 (vdd! 0) vsource type=dc dc=VDDH
I19 (\~R0_1\<3\> \~R0_1\<2\> \~R0_1\<1\> \~R0_1\<0\> \~R1_1\<3\> \
        \~R1_1\<2\> \~R1_1\<1\> \~R1_1\<0\> 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 \
        0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 \
        0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 \
        0 0 0 0 0 0 0 0 0 vcc! VDD\<15\> VDD\<14\> VDD\<13\> VDD\<12\> \
        VDD\<11\> VDD\<10\> VDD\<9\> VDD\<8\> VDD\<7\> VDD\<6\> VDD\<5\> \
        VDD\<4\> VDD\<3\> VDD\<2\> VDD\<1\> VDD\<0\>) _sub27
M0 (net017 VH vdd! vdd!) pfet w=800n l=24n nfin=nfin nf=1 m=1
M1 (net024 VL vcc! vcc!) pfet w=800n l=24n nfin=nfin nf=1 m=1
M3\<3\> (\~R1_1\<3\> net016\<0\> vcc! vcc!) pfet w=100n l=24n nfin=1 nf=1 \
        m=1
M3\<2\> (\~R1_1\<2\> net016\<1\> vcc! vcc!) pfet w=100n l=24n nfin=1 nf=1 \
        m=1
M3\<1\> (\~R1_1\<1\> net016\<2\> vcc! vcc!) pfet w=100n l=24n nfin=1 nf=1 \
        m=1
M3\<0\> (\~R1_1\<0\> net016\<3\> vcc! vcc!) pfet w=100n l=24n nfin=1 nf=1 \
        m=1
M2\<3\> (\~R0_1\<3\> net016\<0\> vcc! vcc!) pfet w=100n l=24n nfin=1 nf=1 \
        m=1
M2\<2\> (\~R0_1\<2\> net016\<1\> vcc! vcc!) pfet w=100n l=24n nfin=1 nf=1 \
        m=1
M2\<1\> (\~R0_1\<1\> net016\<2\> vcc! vcc!) pfet w=100n l=24n nfin=1 nf=1 \
        m=1
M2\<0\> (\~R0_1\<0\> net016\<3\> vcc! vcc!) pfet w=100n l=24n nfin=1 nf=1 \
        m=1
IVDDL (net024 Vline) iprobe
I12 (vcc! net039) iprobe
ILine (Vline VDD\<0\>) iprobe
I18\<14\> (net039 VDD\<15\>) iprobe
I18\<13\> (net039 VDD\<14\>) iprobe
I18\<12\> (net039 VDD\<13\>) iprobe
I18\<11\> (net039 VDD\<12\>) iprobe
I18\<10\> (net039 VDD\<11\>) iprobe
I18\<9\> (net039 VDD\<10\>) iprobe
I18\<8\> (net039 VDD\<9\>) iprobe
I18\<7\> (net039 VDD\<8\>) iprobe
I18\<6\> (net039 VDD\<7\>) iprobe
I18\<5\> (net039 VDD\<6\>) iprobe
I18\<4\> (net039 VDD\<5\>) iprobe
I18\<3\> (net039 VDD\<4\>) iprobe
I18\<2\> (net039 VDD\<3\>) iprobe
I18\<1\> (net039 VDD\<2\>) iprobe
I18\<0\> (net039 VDD\<1\>) iprobe
IVDDH (net017 Vline) iprobe
C0 (Vline 0) capacitor c=C m=1
V0 (sH 0) vsource type=pulse dc=0 val0=VDDH val1=0 period=period \
        delay=startDelay rise=8p fall=8p width=pulseWidth
I1 (sH 0 vdd! net035) inv_1x_PWR
ic \~R0_1\<3\>=VDDL \~R0_1\<2\>=VDDL \~R0_1\<1\>=VDDL \~R0_1\<0\>=VDDL \
    \~R1_1\<3\>=VDDL \~R1_1\<2\>=VDDL \~R1_1\<1\>=VDDL \~R1_1\<0\>=VDDL \
    VL=0 VH=VDDH sH=VDDH net035=0 I19.I0.I0.I7.I3.Q1=VDDL \
    I19.I0.I0.I7.I3.Q0=0 
simulatorOptions options reltol=1e-3 vabstol=1e-6 iabstol=1e-12 temp=27 \
    tnom=27 multithread=on scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 \
    maxnotes=5 maxwarns=5 digits=5 cols=80 pivrel=1e-3 \
    sensfile="../psf/sens.output" checklimitdest=psf 
tran tran stop=timeStop errpreset=conservative write="spectre.ic" \
    writefinal="spectre.fc" annotate=status maxiters=5 
finalTimeOP info what=oppoint where=rawfile
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
save ILine:1 IVDDH:1 IVDDL:1 VH VL Vline 
saveOptions options save=allpub
